US05459138
EXAMPLE 51: 3-ETHYL-2,3-DIHYDRO-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE
0.5 g of 4-aminopyridine-3-sulfonamide (Preparation 2) and 0.34 g (2 equivalents) of propionaldehyde are introduced into 5 cm3 of isopropanol to which 10 drops of a saturated solution of hydrochloric acid in ethyl acetate have been added. After refluxing for 2 h, the solution obtained is concentrated to dryness and the residue is recrystallized from a 1/3 isopropanol/petroleum ether (40°-60° C.) mixture.

reactant | 4-aminopyridine-3-sulfonamide | 0.5 g | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
reactant | propionaldehyde | 0.34 g, 2 equivalents | C(CC)=O | C3H6O
reactant | isopropanol | 5 cm3 | C(C)(C)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-ETHYL-2,3-DIHYDRO-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE | C(C)C1NS(C2=C(N1)C=CN=C2)(=O)=O | C8H11N3O2S
